US09290490B2
To a solution of butyl trans-4-{1-fluoro-1-[5-(3-methyl-5-{[4-(trifluoromethyl)-pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate (80 mg, 0.14 mmol) in methanol (1.5 mL) was added sodium hydroxide (1.0 M in H2O, 0.28 mL, 0.28 mmol) and the reaction was heated to 60° C. overnight. Then, the reaction was cooled to room temperature, acidified to a pH of ˜3 with HCl (1.0 M in water) and diluted with water and ethyl acetate. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo to afford racemic trans-4-{1-fluoro-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylic acid. MS ESI calc'd. for C24H25F4N4O2S [M+H]+ 509. found 509. 1H NMR (500 MHz, DMSO-d6) 12.01 (s, 1H), 10.28 (s, 1H), 8.84 (d, J=4.8, 1H), 8.07 (d, J=3.3, 1H), 8.02 (s, 1H), 7.47 (s, 1H), 7.29 (d, J=4.9, 1H), 7.19 (s, 1H), 2.32 (s, 3H), 2.16-2.01 (m, 1H), 2.00-1.87 (m, 4H), 1.85 (s, 1H), 1.67 (s, 3H), 1.35-1.19 (m, 4H).

reactant | butyl trans-4-{1-fluoro-1-[5-(3-methyl-5-{[4-(trifluoromethyl)-pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylate | 0.14 mmol, 80 mg | FC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C28H32F4N4O2S
reactant | sodium hydroxide | 0.28 mmol, 1.0 M, 0.28 mL | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | racemic trans-4-{1-fluoro-1-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]ethyl}cyclohexanecarboxylic acid | FC(C)(C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)[C@@H]1CC[C@H](CC1)C(=O)O | C24H24F4N4O2S
